US05446153
6-Methyl-4-[(2-methylpropyl)amino]-3-nitro-2-pyridinyl trifluoromethanesulfonate
Triethylamine (8.34 mL, 0.06 mole) was added to a cooled (0° C.) solution of 4-hydroxy-6-methyl-3-nitro-2(1H)-pyridinone (5.0 g, 0.03 moles) in methylene chloride (300 mL). Trifluoromethanesulfonic anhydride (10.1 mL, 0.06 moles) was added and the resulting mixture was stirred at 0° C. for about 30 minutes. Isobutylamine (8.94 mL, 0.09 mole) was added and the reaction mixture was stirred for about 30 minutes. The reaction mixture was quenched with water (500 mL) then extracted with methylene chloride (3×50 mL). The extracts were combined, dried overmagnesium sulfate then concentrated under vacuum to provide an orange oil. The oil was purified by silica gel column chromatography eluting with hexane:ethyl acetate (70:30) to provide 3.4 g of the desired product as a yellow solid.

reactant | Triethylamine | 0.06 mole, 8.34 mL | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxy-6-methyl-3-nitro-2(1H)-pyridinone | 0.03 moles, 5.0 g | OC1=C(C(NC(=C1)C)=O)[N+](=O)[O-] | C6H6N2O4
reactant | Trifluoromethanesulfonic anhydride | 0.06 moles, 10.1 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Isobutylamine | 0.09 mole, 8.94 mL | C(C(C)C)N | C4H11N
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 6-Methyl-4-[(2-methylpropyl)amino]-3-nitro-2-pyridinyl trifluoromethanesulfonate | 3.4 g | FC(S(=O)(=O)OC1=NC(=CC(=C1[N+](=O)[O-])NCC(C)C)C)(F)F | C11H14F3N3O5S
